US07709511B2
a) N-(2,2-Diethoxyethyl)-5-phenethyloxy-pentan-1-amine
2-(5-Bromopentoxy)ethylbenzene (1.5 g) was dissolved in ethanol (30 mL) and treated with 2,2-diethoxyethylamine (0.86 g) and diisopropylethylamine (1.8 mL) at room temperature. The reaction was stirred at 78° C. for 48 hours and was then poured into ethyl acetate (10 mL), washed with water (10 mL) and brine (10 mL). The organic layer was dried over anhydrous magnesium sulphate, filtered and concentrated in vacuo to give the sub-titled compound (0.2 g) as an oil.

reactant | 2-(5-Bromopentoxy)ethylbenzene | 1.5 g | BrCCCCCOCCC1=CC=CC=C1 | C13H19BrO
reactant | 2,2-diethoxyethylamine | 0.86 g | C(C)OC(CN)OCC | C6H15NO2
reactant | diisopropylethylamine | 1.8 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | N-(2,2-Diethoxyethyl)-5-phenethyloxy-pentan-1-amine | 0.2 g | C(C)OC(CNCCCCCOCCC1=CC=CC=C1)OCC | C19H33NO3
